US04545995
(E)-4-(4-Chlorophenyl)-N,N-diethyl-N-heptyl-2-buten-1-aminium chloride
Dissolve 35.55 g (0.1768 mole) of a mixture of 1-chloro-4-(4-chloro-2-butenyl)benzene and 1-chloro-4-(2-chloro-3-butenyl)benzene and 27.7 g (0.1607 mole) of N,N-diethyl-1-heptanamine in 220 ml of acetonitrile. Heat the reaction mixture to reflux for 6 hours. Follow the progress of the reaction by thin layer chromatography (acetonitrile: ammonium hydroxide, 95:5). At the completion of the reaction, evaporate solvent and dissolve the residue in 400 ml distilled water. Add solid sodium bicarbonate until pH of solution is 8.5. Wash the aqueous mixture with 4×200 ml petroleum ether and then 5×200 ml Et2O. Add 1N HCl to aqueous layer until pH=1 and then extract with 3×200 ml methylene chloride. Dry over magnesium sulfate, filter and evaporate solvent. Dissolve the material in 150 ml of 2-butanone and then add diethyl ether until solution becomes cloudy. Warm solution until clear and then cool and store in freezer for 3 hours to complete crystallization and then filter title compound. Recrystallize a second time (2-butanone/ether) to provide the title compound in 60% yield.

reactant | 1-chloro-4-(4-chloro-2-butenyl)benzene | ClC1=CC=C(C=C1)CC=CCCl | C10H10Cl2
reactant | 1-chloro-4-(2-chloro-3-butenyl)benzene | ClC1=CC=C(C=C1)CC(C=C)Cl | C10H10Cl2
reactant | N,N-diethyl-1-heptanamine | 0.1607 mole, 27.7 g | C(C)N(CCCCCCC)CC | C11H25N
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetonitrile | 220 ml | C(C)#N | C2H3N
product | (E)-4-(4-Chlorophenyl)-N,N-diethyl-N-heptyl-2-buten-1-aminium chloride | 60% yield | [Cl-].ClC1=CC=C(C=C1)C/C=C/C[N+](CCCCCCC)(CC)CC | InChI=1S/C21H35ClN.ClH/c1-4-7-8-9-11-18-23(5-2,6-3)19-12-10-13-20-14-16-21(22)17-15-20;/h10,12,14-17H,4-9,11,13,18-19H2,1-3H3;1H/q+1;/p-1/b12-10+;
